US07776875B2
Preparation of Intermediate E/Z-6-Chloro-3-[5-chloro-2-(pyrimidin-2-yloxy)-benzylidene]-1,3-dihydro-indol-2-one
To a mixture of 6-chlorooxindole (1.1 g, 6.4 mmol) and 5-chloro-2-(pyrimidin-2-yloxy)-benzaldehyde (1.5 g, 6.4 mmol) in methanol (10 mL) was added pyrrolidine (0.5 mL, 6.4 mmol) dropwise. The mixture was then heated at 70° C. for 3 h. After cooled to 4° C., the mixture was filtered and the precipitate was collected, dried to give the title compound as a bright yellow solid (1.3 g).

reactant | 6-chlorooxindole | 6.4 mmol, 1.1 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 5-chloro-2-(pyrimidin-2-yloxy)-benzaldehyde | 6.4 mmol, 1.5 g | ClC=1C=CC(=C(C=O)C1)OC1=NC=CC=N1 | C11H7ClN2O2
reactant | pyrrolidine | 6.4 mmol, 0.5 mL | N1CCCC1 | C4H9N
solvent | methanol | 10 mL | CO | CH4O
product | Z-6-Chloro-3-[5-chloro-2-(pyrimidin-2-yloxy)-benzylidene]-1,3-dihydro-indol-2-one | 1.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OC1=NC=CC=N1 | C19H11Cl2N3O2
